US04563466
1-(pyrid-2-oyl)-3-[1-(naphth-2-ylmethyl)piperid-4-yl]urea
Sodium (0.1 g, 4.35 mmol) in liquid ammonia (100-150 cm3) was stirred until the blue colour was discharged. A bomb was charged with [1-(naphth-2-yl-methyl)piperid-4-yl]urea (0.83 g, 2.93 mmol) and the liquid ammonia solution was added. The mixture was stirred at room temperature for 2 days then the bomb was cooled to -78° C., and ethyl picolinate (0.6 g, 3.97 mmol) was added. Stirring was continued for 3 hours at room temperature then the ammonia was allowed to evaporate and the gummy residue triturated with water then ethyl acetate. The ethyl acetate suspension was filtered to give recovered [1-(naphth-2-ylmethyl)piperid-4-yl]urea (0.33 g). The filtrate was evaporated and the residue chromatographed on silica eluting with chloroform then chloroform:ethyl acetate 4:1 to give the title compound (0.37 g).

reactant | Sodium | 4.35 mmol, 0.1 g | [Na] | Na
reactant | ammonia | 100-150 cm3 | N | H3N
reactant | [1-(naphth-2-yl-methyl)piperid-4-yl]urea | 2.93 mmol, 0.83 g | C1=C(C=CC2=CC=CC=C12)CN1CCC(CC1)NC(=O)N | C17H21N3O
reactant | ethyl picolinate | 3.97 mmol, 0.6 g | N1=C(C=CC=C1)C(=O)OCC | C8H9NO2
product | 1-(pyrid-2-oyl)-3-[1-(naphth-2-ylmethyl)piperid-4-yl]urea | 0.37 g | N1=C(C=CC=C1)C(=O)NC(=O)NC1CCN(CC1)CC1=CC2=CC=CC=C2C=C1 | C23H24N4O2
